US06642389B2
b] 2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid
0.184 g of 2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester (0.40 mmol) was dissolved in 1 ml of THF/MeOH=1/1 and treated with 0.670 ml of 3N NaOH. The reaction mixture was kept over night at RT and then quenched by pouring onto crashed ice/HCl. Twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents left a crude product, which was purified by crystallisation from AcOEt/hexane to yield 0.158 g of the title compound as white solid, mp.121-122°.

reactant | 2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid ethyl ester | 0.40 mmol, 0.184 g | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2)OC)=O | C26H27NO5S
reactant | NaOH | 3N, 0.670 ml | [OH-].[Na+]
solvent | THF MeOH | 1 ml | C1CCOC1.CO
product | 2-Methoxy-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-propionic acid | 0.158 g | COC(C(=O)O)CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC=CC=C2 | C24H23NO5S
